US04248876
cis-3-Methoxy-1-methyl-5-phenylpiperidine
A solution of cis-1-methyl-5-phenyl-3-piperidinol (2.03 g) in THF (20 ml) was treated with 60% sodium hydride dispersion in oil (480 mg) and heated 15 min. at reflux. The mixture was cooled to room temperature and treated with methyl tosylate (1.86 g) in THF (5 ml). The reaction mixture was stirred for 1 hour at ambient temperature, treated with water (5 ml) and the solvents removed under reduced pressure. The residue was partitioned between water (100 ml) and ether (100 ml). The organic phase was dried over magnesium sulphate and the solvent removed under reduced pressure. The resulting oil was triturated with cyclohexane (10 ml) and the resulting crystals (300 mg; unchanged starting material) removed by filtration. The mother liquors were evaporated under reduced pressure and the resulting gum converted to the fumarate which was recrystallised from methanol/ethyl acetate to give the title compound as the sesquifumarate (500 mg) Mpt. 152°-4°

reactant | cis-1-methyl-5-phenyl-3-piperidinol | 2.03 g | CN1C[C@H](C[C@H](C1)C1=CC=CC=C1)O | C12H17NO
reactant | sodium hydride | [H-].[Na+]
reactant | methyl tosylate | 1.86 g | S(=O)(=O)(OC)C1=CC=C(C)C=C1 | C8H10O3S
reactant | water | 5 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | cis-3-Methoxy-1-methyl-5-phenylpiperidine | CO[C@@H]1CN(C[C@@H](C1)C1=CC=CC=C1)C | C13H19NO
